US07812022B2
2,6-Difluoro-N-(3-{3-[2-({3-[1-(methylsulfonyl)ethyl]-phenyl}amino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)benzamide
The title compound is racemic and may be prepared by a procedure similar to Example 27, Step D using N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide and racemic {3-[1-(methylsulfonyl)ethyl]-phenyl}amine. 1H NMR (400 MHz, DMSO-d6): δ 10.92 (s, 1H); 9.63 (s, 1H); 8.82 (d, 1H); 8.50 (d, 1H); 8.24 (d, 1H); 7.98 (s, 1H); 7.82 (d, 1H); 7.76 (br s, 2H); 7.56 (qt, 1H); 7.47 (t, 2H); 7.35 (d, 1H); 7.23 (m, 3H); 7.11 (t, 1H); 7.01 (d, 1H); 6.53 (d, 1H); 4.40 (m, 1H); 2.80 (s, 3H); 1.60 (d, 3H). HRMS (ESI): (M+H)+ calculated 625.1833, found 625.1828.

reactant | N-(3-{3-[2-(1,2,3,4-tetrahydro-7-isoquinolinylamino)-4-pyrimidinyl]-pyrazolo[1,5-a]pyridin-2-yl}phenyl)benzamide | C1NCCC2=CC=C(C=C12)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=CC=CC=C2)=O | C33H27N7O
reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | racemic {3-[1-(methylsulfonyl)ethyl]-phenyl}amine | CS(=O)(=O)C(C)C=1C=C(C=CC1)N | C9H13NO2S
product | 2,6-Difluoro-N-(3-{3-[2-({3-[1-(methylsulfonyl)ethyl]-phenyl}amino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)benzamide | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC(=CC=C2)C(C)S(=O)(=O)C)C(=CC=C1)F | C33H26F2N6O3S
